US05250522
To a solution of oxalyl chloride (0.535 mL, 6.14 mmol) in methylene chloride (3 mL) cooled to -70° under nitrogen is added dropwise dimethylsulfoxide (0.830 mL, 10.7 mmol) in methylene chloride (3 mL). After 20 minutes of stirring at -70°, a solution of (S)-2-t-butoxycarbonylamino-3-(biphenyl-4-yl)-propan-1-ol (1 g, 3.05 mmol) in methylene chloride (3 mL) is added, followed by triethylamine (2 mL, 14.3 mmol). The solution is allowed to warm up to room temperature over a 1 hour period, then poured into brine. Methylene chloride (50 mL) and water (80 mL) are added. The organic layer is separated, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The crude aldehyde is dissolved in methylene chloride (15 mL) and treated with (carboethoxymethylene)-triphenylphosphorane (2.1 g, 6.1 mmol). After stirring at room temperature for 18 hours, silica gel (2 g) is added and the solvent is evaporated under vacuum. The product is purified by flash-chromatography on silica gel, eluting with 25% ethyl acetate in hexane. (S)-4-(t-Butoxycarbonylamino)-5-(biphenyl-4-yl)-2-pentenoic acid ethyl ester is obtained as a white solid, m.p. 91°-94°.

reactant | oxalyl chloride | 6.14 mmol, 0.535 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 10.7 mmol, 0.830 mL | CS(=O)C | C2H6OS
reactant | (S)-2-t-butoxycarbonylamino-3-(biphenyl-4-yl)-propan-1-ol | 3.05 mmol, 1 g | C(C)(C)(C)OC(=O)N[C@H](CO)CC1=CC=C(C=C1)C1=CC=CC=C1 | C20H25NO3
reactant | triethylamine | 14.3 mmol, 2 mL | C(C)N(CC)CC | C6H15N
reactant | (carboethoxymethylene)-triphenylphosphorane | 6.1 mmol, 2.1 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
solvent | Methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 80 mL | O | H2O
product | (S)-4-(t-Butoxycarbonylamino)-5-(biphenyl-4-yl)-2-pentenoic acid ethyl ester | C(C)OC(C=C[C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C24H29NO4
